US04145432
To a suspended solution of benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (1.2 g) in ethanol (20 ml) was added sodium borohydride (60.6 mg) under ice-cooling and stirred, and further stirred for an hour at 0° C. and another an hour at 3° C. The reaction mixture was added with water and the resultant mixture was adjusted to pH 6 to 7 with 2N hydrochloric acid, and the solvent was distilled off. The residue was extracted with ethyl acetate and washed with water and dried. After removal of the solvent, the resultant oil (1.3 g) was purified by column chromatography on silica gel with an eluent (a mixture of ten parts of benzene and one part of ethyl acetate by volume) to give an oil which was immediately crystallized. The resultant crystals were recrystallized from a mixture of diethyl ether and n-hexane and dissolved in benzene. The benzene solution was subjected to azeotropic process five times to give pure crystals of benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate, m.p. 51° to 57° C.

reactant | benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.2 g | CC=1NC(=C(C(C1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C24H22N2O7
reactant | sodium borohydride | 60.6 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | benzyl 2-methyl-4-(2-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OCC1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)CO | C24H24N2O7
